US20010037026A1
A suspension consisting of 50.0 g of rac-1,4-dibenzyl-3-oxo-piperidine hydrochloride (0.158 mol), 0.50 l of water and 10.0 g of 5% palladium on charcoal (Pd/C) was stirred under a hydrogen atmosphere until 3.5 1 of gas had been consumed (1 h). Then the Pd/C was filtered off and rinsed with water, the filtrate was evaporated and the residue taken up in isopropanol. The crystallization started spontaneously and was completed at 5° C. over night. The precipitate was filtered off, the filter cake was rinsed with cold isopropanol and dried to constant weight (0.2 mbar, room temperature, 2 h) to afford 30 g of rac-4-benzyl-pyperidine-3-one hydrochloride as light yellow crystals. Elemental analysis:

reactant | rac-1,4-dibenzyl-3-oxo-piperidine hydrochloride | 0.158 mol, 50.0 g | Cl.C(C1=CC=CC=C1)N1CC(C(CC1)CC1=CC=CC=C1)=O
catalyst | palladium on charcoal | 10.0 g | [Pd] | Pd
solvent | water | 0.50 l | O | H2O
product | rac-4-benzyl-pyperidine-3-one hydrochloride | 30 g | Cl.C(C1=CC=CC=C1)C1C(CNCC1)=O | InChI=1S/C12H15NO.ClH/c14-12-9-13-7-6-11(12)8-10-4-2-1-3-5-10;/h1-5,11,13H,6-9H2;1H
